US05371101
In the same manner as in Reference Example 5, starting from 681 mg of (1S)-1-[(2R)-2-(2,4-difluorophenyl)-2-oxiranyl]ethanol and 1.0 g of 4-[4-(4-benzyl-1-piperazinyl)phenyl]-3(2H,4H)-1,2,4-triazolone, 2-[(1R,2S)-2-(2,4-difluorophenyl)-2,3-epoxy-1-methylpropyl]-4-[4-(4-benzyl-1-piperazinyl)phenyl]-3(2H,4H)-1,2,4-triazolone (293 mg) was obtained as a colorless powder.

reactant | (1S)-1-[(2R)-2-(2,4-difluorophenyl)-2-oxiranyl]ethanol | 681 mg | FC1=C(C=CC(=C1)F)[C@]1(OC1)[C@H](C)O | C10H10F2O2
reactant | 4-[4-(4-benzyl-1-piperazinyl)phenyl]-3(2H,4H)-1,2,4-triazolone | 1.0 g | C(C1=CC=CC=C1)N1CCN(CC1)C1=CC=C(C=C1)N1C(NN=C1)=O | C19H21N5O
product | 2-[(1R,2S)-2-(2,4-difluorophenyl)-2,3-epoxy-1-methylpropyl]-4-[4-(4-benzyl-1-piperazinyl)phenyl]-3(2H,4H)-1,2,4-triazolone | 293 mg | FC1=C(C=CC(=C1)F)[C@]1([C@@H](C)N2N=CN(C2=O)C2=CC=C(C=C2)N2CCN(CC2)CC2=CC=CC=C2)CO1 | C29H29F2N5O2
